US07943619B2
6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide
As described for example 67e, 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (100 mg, 0.29 mmol) was converted, using 2,2,2-trifluoroethylamine instead of aminomethylcyclopropane, to the title compound (76 mg, 66%) which was obtained as a white solid. MS: m/e=394.1 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1 | C17H16N4O4
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-(5-Methyl-3-pyridin-4-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide | 76 mg, 66% | FC(CNC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=NC=C1)(F)F | C17H14F3N5O3
